US05360617
Cloning the Bacteriophage φvML3 lysin gene
Purified, EcoRI-digested and dephosphorylated DNA arms of bacteriophage lambda vector λ.gt10 were purchased from Northumbria Biologicals Ltd and ligated with pure DNA fragments of φvML3 DNA by incubation overnight at 4° C. with 1 unit of DNA ligase per 10 ul in a reaction buffer containing 50 mM Tris hydrochloride, 7 mM magnesium chloride, 1 mM dithiothreitol, 1 mM ATP, pH 8. Ligated DNA was packaged in vitro into lambda bacteriophage using crude cell-extracts prepared as described by Scalenghe et al. (1981) and Hohn (1979). Freeze-thaw lysates (FTL) were prepared from E. coli strain BHB2688 and sonic extracts from E. coli strain BHB 2690. The in vitro packaging reaction was carried out by the sequential addition of 350 ul buffer consisting of 20 mM Tris hydrochloride, 3 mM magnesium chloride, 0.05% β-mercaptoethanol, 1 uM EDTA, pH 8.0; 50 ul of ligated DNA; 50 ul of a buffer consisting of 30 mM spermine tri-hydrochloride pH 7.0, 30 mM putrescine-dihydrochloride pH 7.0, 18 mM magnesium chloride, 15 mM ATP, 1.2% β-mercaptoethanol; 175 ul of sonic extract (SE); 250 ul freeze-thaw extract (FTL). The mixture was incubated for 90 minutes at room temperature and 11.5 ml of lambda buffer consisting of 6 mM Tris hydrochloride, 10 mM magnesium chloride, 100 mM sodium chloride, 0.5 mg/ml gelatine, pH 8.0 was added, together with 50 ul of chloroform. The bacteriophage lambda suspension was plated on the E. coli host strain C600 hfl- using NZY agar plates. Lambda plaques that expressed the bacteriophage φvML3 lysin gene were detected by overlaying with a suspension of Lactococcus lactis subsp. cremoris NCDO 1196 cells in 0.1M potassium phosphate buffer pH 6.7 with 0.7% agarose. Plates were incubated at 30° C. for 6 hours and clones expressing bacteriphage OvML3 lysin produced a region of clearing above the lambda plaque as shown in FIG. 2. A collection of 50 clones, each expressing lysin, were purified by single-plaque isolation and retained. In FIG. 2, plaques of λ.gt10 with random cloned fragments of bacteriophage φvML3 DNA are shown. The plaques are overlayed with Lactoccus lactis subsp cremoris cells. Lambda clones which express a cloned lysin gene (arrowed) have produced a clear window in this lawn and appear dark, whereas other lambda plaques retain a cloudy appearance.

reactant | Tris hydrochloride | 20 mM | C(C(CO)(CO)N)O.Cl
reactant | magnesium chloride | 3 mM | [Cl-].[Mg+2].[Cl-]
reactant | β-mercaptoethanol | SCCO | C2H6OS
reactant | EDTA | 1 uM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | spermine tri-hydrochloride | 30 mM, pH 7.0 | Cl.Cl.Cl.NCCCNCCCCNCCCN
reactant | ATP | 15 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
product | lysin | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
